US08039463B2
HOBt (31 mg, 0.23 mmol) and DMAP (42 mg, 0.34 mmol) were added to a stirred solution of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid (75 mg, 0.2 mmol) in DMF (1 mL). The reaction mixture was cooled to 0° C. and EDCI.HCl (48 mg, 0.25 mmol) followed by 4-morpholin-4-yl-phenylamine (41 mg, 0.23 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water. The resulting precipitate was filtered and washed with hexane to afford 45 mg (41%) of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-N-(4-morpholin-4-yl-phenyl)-3-oxo-propionamide. LCMS: 516.12 (M+1)+, 97.57%, 1H NMR: (DMSO-d6): δ 7.7 (m, 1H), 7.5-7.32 (m, 5H), 6.9-6.8 (m, 2H), 3.8-3.7 (bs, 5H), 3.6-3.4 (m, 7H), 3.2-3.08 (m, 2), 3.04-2.98 (m, 3H).

reactant | HOBt | 0.23 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid | 0.2 mmol, 75 mg | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)O)=O)C=CC=C1 | C14H15BrN2O4
reactant | EDCI.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-morpholin-4-yl-phenylamine | 0.23 mmol, 41 mg | N1(CCOCC1)C1=CC=C(C=C1)N | C10H14N2O
catalyst | DMAP | 0.34 mmol, 42 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-N-(4-morpholin-4-yl-phenyl)-3-oxo-propionamide | 45 mg, 41% | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)NC2=CC=C(C=C2)N2CCOCC2)=O)C=CC=C1 | C24H27BrN4O4
